US07262309B2
1-[2-(Naphthalene-2-yloxy)-phenyl]-ethanone (1; Table 2)
A mixture of 2-naphthol (0.035 mole), 2-chloroacetophenone (0.026 mole), potassium carbonate (0.040 mole) and CuCl (100 mg) in isoamyl alcohol (3 ml) was refluxed overnight. Then the reaction mixture was filtered and the precipitate was washed a few times with ethyl acetate and then the filtrate was washed with a 10% aqueous sodium hydroxide solution and water. The solvent was removed by evaporation under reduced pressure and the residue was distilled under high vacuum to give a pure product in the form of a light yellow liquid.

reactant | 2-naphthol | 0.035 mole | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 2-chloroacetophenone | 0.026 mole | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | potassium carbonate | 0.040 mole | C([O-])([O-])=O.[K+].[K+]
solvent | isoamyl alcohol | 3 ml | C(CC(C)C)O | C5H12O
catalyst | CuCl | 100 mg | Cl[Cu]
product | 1-[2-(Naphthalene-2-yloxy)-phenyl]-ethanone | C1=C(C=CC2=CC=CC=C12)OC1=C(C=CC=C1)C(C)=O | C18H14O2
